Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet / morphine / Amitiza
 
Attending: ___.
 
Chief Complaint:
post-prandial emesis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ s/p lap gastric band on ___, complaining of 1 month of 
vomiting and dysphagia. Initially symptoms were related to 
solids, then ___ weeks ago also related to liquids. She vomits 
early and every time she tries to eat, without abdominal pain, 
nausea, fevers or chills. Patient had an UGI at ___ 
___ showing a tight banding lumen and extensive reflux, so 
she was seen by Dr ___ in the office and 7cc were taken 
out of the port. She came to the ED for fluid resuscitation, IV 
vitamins (risk of B1 deficiency), and a follow up UGI study 
after removing the fluid from the band.

 
Past Medical History:
Past Medical History: ___, GERD, Osteoarthritis
of the ankle, Migraine headaches, Pituitary adenoma.

Past Surgical History: Laparoscopic adjustable gastric band
___, Ovarian biopsy for benign lesion ___, Cardiac
ablation x5 (last ___, Ankle arthroscopy (___)

 
Social History:
___
Family History:
DM, HTN in Father, HTN in Mother

 
Physical ___ on discharge:
VS 98.4  98.2  79  115/70  18  100RA
GEN: WD, obese F in NAD
CV: RRR
PULM: CTAB
ABD: abdomen soft, mildly tender over the external port without 
erythema or drainage, no epigastric tenderness, non-distended
EXT: warm, well-perfused
NEURO: A&Ox3
 
Pertinent Results:
___ 07:50PM BLOOD WBC-7.0 RBC-4.16* Hgb-12.2 Hct-35.2* 
MCV-85 MCH-29.3 MCHC-34.7 RDW-13.0 Plt ___
___ 07:50PM BLOOD Neuts-45.8* Lymphs-47.3* Monos-5.1 
Eos-1.5 Baso-0.4
___ 07:50PM BLOOD Glucose-72 UreaN-5* Creat-0.6 Na-139 
K-3.7 Cl-105 HCO3-23 AnGap-15
___ 07:50PM BLOOD Calcium-9.4 Phos-3.1 Mg-2.2
 
Brief Hospital Course:
Ms. ___ was admitted to the bariatric surgical service on 
___ for a trial of PO after removing 7cc from her lap band 
in the office.  After the fluid was removed she describes nearly 
immediate resolution of her chronic crampy abdominal pain.  She 
presented to the ED where her electrolytes and CBC were wnl.  
She had a repeat UGI swallow which was preliminarily normal 
(band in good position, normal passage of contrast).  She was 
admitted to the floor, given vitamin repletion, IV fluids 
(banana bag, 2L LR), and a trial of PO.  Patient was advanced to 
stage V bariatric diet by evening of ___ and tolerating this 
well.  At the time of discharge on ___, the patient was doing 
well, afebrile with stable vital signs, tolerating a stage V 
bariatric diet, ambulating, voiding without assistance, and pain 
was well controlled.

 
Medications on Admission:
CABERGOLINE -  (Prescribed by Other Provider) - 0.5 mg Tablet -
___ Tablet(s) by mouth weekly
COMPAZINE -  (Prescribed by Other Provider) - 10 mg Tablet - 1
Tablet(s) by mouth  as needed for nausea with headaches
DROSPIRENONE-ETHINYL ESTRADIOL [OCELLA] -  (Prescribed by Other
Provider) - 0.03 mg-3 mg Tablet - 1 Tablet(s) by mouth daily
FLECAINIDE -  (Prescribed by Other Provider) - 150 mg Tablet - 1
Tablet(s) by mouth once a day
LEVALBUTEROL TARTRATE [XOPENEX HFA] -  (Prescribed by Other
Provider) - 45 mcg/Actuation HFA Aerosol Inhaler - ii puffs 
twice
a day
PANTOPRAZOLE -  (Prescribed by Other Provider) - 40 mg Tablet,
Delayed Release (E.C.) - 2 Tablet(s) by mouth once a day
SUMATRIPTAN [IMITREX] -  (Prescribed by Other Provider) - 20 mg
Spray, Non-Aerosol - 1  as needed for headache uses about 
2x/week

 
Discharge Medications:
1. flecainide 50 mg Tablet Sig: Three (3) Tablet PO Q 24H (Every 
24 Hours).  
2. Xopenex HFA 45 mcg/Actuation HFA Aerosol Inhaler Sig: Two (2) 
puff Inhalation twice a day.  
3. cabergoline 0.5 mg Tablet Sig: 0.5 Tablet PO once a week.  
4. Ocella ___ mg Tablet Sig: One (1) Tablet PO once a day.  
5. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: Two 
(2) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Imitrex ___ mg/Actuation Spray, Non-Aerosol Sig: One (1) spray 
Nasal once a day as needed for migraine.  
7. therapeutic multivitamin     Liquid Sig: Five (5) ML PO ONCE 
(Once) for 30 days.
Disp:*150 ML(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lap-band associated vomiting

 
Discharge Condition:
Awake, alert, oriented x3, ambulating independently, voiding 
good amounts of urine, tolerating a stage 3 bariatric diet.

 
Discharge Instructions:
You were admitted to the bariatric surgery service for po 
intolerance related to the lap band.  

Continue a stage 5 diet.  If you develop nausea or vomiting try 
scaling back to a stage 1 or 2 diet.  If symptoms continue or 
worsen, please call the office or return to the hospital.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 10 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.

You may shower and bathe.

Activity as tolerated.

 
Followup Instructions:
___